US08975254B2
c) (R)-5-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-3-nitropicolinonitrile
(R)-5-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-3-nitropicolinonitrile was prepared from 3-nitro-5-(1H-pyrazol-5-yl)picolinonitrile (0.88 g, 4.9 mmol) and (R)-tert-butyl 1-hydroxypropan-2-ylcarbamate (0.86 g, 4.9 mmol) using the method of Example 34(d). Thus, 0.62 g (56%) of the title compound was obtained. m/z [273.3+1].

reactant | 3-nitro-5-(1H-pyrazol-5-yl)picolinonitrile | 4.9 mmol, 0.88 g | [N+](=O)([O-])C=1C(=NC=C(C1)C1=CC=NN1)C#N | C9H5N5O2
reactant | (R)-tert-butyl 1-hydroxypropan-2-ylcarbamate | 4.9 mmol, 0.86 g | OC[C@@H](C)NC(OC(C)(C)C)=O | C8H17NO3
product | (R)-5-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-3-nitropicolinonitrile | 0.62 g, 56% | N[C@@H](CN1N=C(C=C1)C=1C=C(C(=NC1)C#N)[N+](=O)[O-])C | C12H12N6O2
